* Open-source SKY130A ADC analog blocks: schematic-level, not extracted.
* NFET/PFET terminal order is drain, gate, source, bulk; dimensions are um.
* Clock generation and reference buffers are external interfaces, not ideal
* devices hidden inside these subcircuits.

.subckt adc_tgate A B EN ENB VDD VSS params: WN=8 WP=16 LSW=0.15
XN B EN A VSS sky130_fd_pr__nfet_01v8 W={WN} L={LSW} nf=1 mult=1
XP B ENB A VDD sky130_fd_pr__pfet_01v8 W={WP} L={LSW} nf=1 mult=1
.ends adc_tgate

* Four reset PMOS, NMOS input pair, cross-coupled CMOS regeneration.
* CLK=0 resets both outputs HIGH. CLK=1 evaluates. OUTP>OUTN means INP>INN.
* Outputs MUST be sampled while CLK=1; no static decision-retention latch here.
* DSIZE is deliberate input-pair geometry sensitivity, NOT random mismatch.
.subckt adc_strongarm INP INN OUTP OUTN CLK VDD VSS params: DSIZE=0
XIP DP INP TAIL VSS sky130_fd_pr__nfet_01v8 W={8*(1+DSIZE)} L=0.5 nf=1 mult=1
XIN DN INN TAIL VSS sky130_fd_pr__nfet_01v8 W=8 L=0.5 nf=1 mult=1
XT TAIL CLK VSS VSS sky130_fd_pr__nfet_01v8 W=16 L=0.15 nf=1 mult=1
XLN OUTN OUTP DP VSS sky130_fd_pr__nfet_01v8 W=4 L=0.15 nf=1 mult=1
XLP OUTP OUTN DN VSS sky130_fd_pr__nfet_01v8 W=4 L=0.15 nf=1 mult=1
XPN OUTN OUTP VDD VDD sky130_fd_pr__pfet_01v8 W=8 L=0.15 nf=1 mult=1
XPP OUTP OUTN VDD VDD sky130_fd_pr__pfet_01v8 W=8 L=0.15 nf=1 mult=1
XRN OUTN CLK VDD VDD sky130_fd_pr__pfet_01v8 W=2 L=0.15 nf=1 mult=1
XRP OUTP CLK VDD VDD sky130_fd_pr__pfet_01v8 W=2 L=0.15 nf=1 mult=1
XRDN DP CLK VDD VDD sky130_fd_pr__pfet_01v8 W=2 L=0.15 nf=1 mult=1
XRDP DN CLK VDD VDD sky130_fd_pr__pfet_01v8 W=2 L=0.15 nf=1 mult=1
.ends adc_strongarm

* Static CMOS NAND and cross-coupled active-low SR decision-retention latch.
* Both StrongARM rails return HIGH on reset, so this latch retains its decision
* across comparator reset and the SAR controller's rising-edge capture.
.subckt adc_nand2 A B Y VDD VSS
XP1 Y A VDD VDD sky130_fd_pr__pfet_01v8 W=2 L=0.15 nf=1 mult=1
XP2 Y B VDD VDD sky130_fd_pr__pfet_01v8 W=2 L=0.15 nf=1 mult=1
XN1 Y A MID VSS sky130_fd_pr__nfet_01v8 W=2 L=0.15 nf=1 mult=1
XN2 MID B VSS VSS sky130_fd_pr__nfet_01v8 W=2 L=0.15 nf=1 mult=1
.ends adc_nand2

.subckt adc_inv A Y VDD VSS
XP Y A VDD VDD sky130_fd_pr__pfet_01v8 W=2 L=0.15 nf=1 mult=1
XN Y A VSS VSS sky130_fd_pr__nfet_01v8 W=1 L=0.15 nf=1 mult=1
.ends adc_inv

.subckt adc_latched_comparator INP INN Q QB CLK VDD VSS params: DSIZE=0
XCORE INP INN DPOS DNEG CLK VDD VSS adc_strongarm DSIZE={DSIZE}
* Matched real MIM ballast reduces the relative effect of state-dependent
* buffer feedthrough; speed/power cost is measured rather than hidden.
XLOADP DPOS VSS adc_mim_bank COUNT=16
XLOADN DNEG VSS adc_mim_bank COUNT=16
* Two symmetric buffers isolate StrongARM from the state-dependent NAND
* Miller load. Direct NAND loading failed the small-input history test.
XBP1 DPOS BPB VDD VSS adc_inv
XBP2 BPB BP VDD VSS adc_inv
XBN1 DNEG BNB VDD VSS adc_inv
XBN2 BNB BN VDD VSS adc_inv
XSET BN QB Q VDD VSS adc_nand2
XRESET BP Q QB VDD VSS adc_nand2
.ends adc_latched_comparator

* Physical three-way bottom-plate switch with static CMOS decode.
* ACQ=1 selects VCM; CONV=1 selects RP when BIT=1, RN when BIT=0.
* ACQ/CONV must be nonoverlapping; phase generator is external and unqualified.
.subckt adc_ref_switch BOTTOM BIT ACQ CONV RP RN VCM VDD VSS params: WN=.84 WP=1.68
XBI BIT BITB VDD VSS adc_inv
XAI ACQ ACQB VDD VSS adc_inv
XPH CONV BIT PHB VDD VSS adc_nand2
XPI PHB PH VDD VSS adc_inv
XNL CONV BITB NLB VDD VSS adc_nand2
XNI NLB NL VDD VSS adc_inv
XCM BOTTOM VCM ACQ ACQB VDD VSS adc_tgate WN={WN} WP={WP}
XRP BOTTOM RP PH PHB VDD VSS adc_tgate WN={WN} WP={WP}
XRN BOTTOM RN NL NLB VDD VSS adc_tgate WN={WN} WP={WP}
.ends adc_ref_switch

* The selected combined deck uses continuous/models_capacitors.spice, with a
* 0.15 um dimension correction: nominal C=2 fF/um^2*(3+.15)^2=19.845 fF.
* COUNT represents parallel identical units. m sets nominal parallel scaling;
* mult communicates the averaging area to the selected statistical model.
* The root environment qualification verifies m=COUNT,mult=COUNT (no double
* nominal scaling), unlike m-only which gives incorrect mismatch averaging.
* Independent bank mismatch does not model spatial gradients or routing.
.subckt adc_mim_bank TOP BOTTOM params: COUNT=1
XC TOP BOTTOM sky130_fd_pr__cap_mim_m3_1 W=3 L=3 m={COUNT} mult={COUNT}
.ends adc_mim_bank

* Binary weights, 12 control bottom-plates and a one-unit dummy: total 4096.
* Top-plate sampling: sample IN at TOP while all bottom plates are at VCM.
* Conversion: TOP floats and differential bottom-plate switching shifts TOP.
.subckt adc_cdac12 TOP B11 B10 B9 B8 B7 B6 B5 B4 B3 B2 B1 B0 DUMMY
XC11 TOP B11 adc_mim_bank COUNT=2048
XC10 TOP B10 adc_mim_bank COUNT=1024
XC9 TOP B9 adc_mim_bank COUNT=512
XC8 TOP B8 adc_mim_bank COUNT=256
XC7 TOP B7 adc_mim_bank COUNT=128
XC6 TOP B6 adc_mim_bank COUNT=64
XC5 TOP B5 adc_mim_bank COUNT=32
XC4 TOP B4 adc_mim_bank COUNT=16
XC3 TOP B3 adc_mim_bank COUNT=8
XC2 TOP B2 adc_mim_bank COUNT=4
XC1 TOP B1 adc_mim_bank COUNT=2
XC0 TOP B0 adc_mim_bank COUNT=1
XD TOP DUMMY adc_mim_bank COUNT=1
.ends adc_cdac12
